US04551471
Effect on Brain Serotonin in Hyperammoniemia
A preliminary experiment was conducted on groups of 2 male Sprague-Dawley rats each, weighing 220-250 g. Hyperammoniemia was induced by administration of 5 moles/kg i.p. of ammonium acetate one hour before sacrifice. 3-Indolpyruvic acid was administered in 10 mg/kg p.o. doses one hour before the ammonium acetate, that is 2 hours before sacrifice. After decapitation, the cerebral hemispheres were rapidly removed, weighed and homogenized with a double volume of physiological solution +0,1 ml of 20% vitamin C. 1 ml of homogenate was treated with 0,43 ml of 12% TCA and 0,025 ml of 20% vitamin C. After standing for 5 minutes at 5° C., the mixture was centrifuged at 11,000 revolutions per minute in a Sorvall centrifuge, SS 34 rotor, for 10 minutes at 5° C. The supernatant was removed and injected into a high pressure liquid chromatograph, equipped with a RP-8 column (Merck). Administration of 3-indolpyruvic acid led in one case to a 20% increase, and in the other a 50% increase in brain serotonin.

reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
reactant | 3-Indolpyruvic acid | N1C=C(C2=CC=CC=C12)CC(C(=O)O)=O | C11H9NO3
product | Serotonin | C1=CC2=C(C=C1O)C(=CN2)CCN | C10H12N2O
